US07402683B2
(3S)-1,3-Dimethyl-2,5-pyrrolidinedione
600 mg (5.26 mmol) of (3S)-3-methyldihydro-2,5-furandione (preparation: S. G. Davies, D. J. Dixon, J. Chem. Soc., Perkin Trans. 1, 1998, 17, 2635-2643) are introduced to a vessel together with 559 mg (0.77 ml, 5.52 mmol) of triethylamine in 5 ml of dichloromethane at 0° C. and 373 mg (5.52 mmol) of methylamine hydrochloride are added. The reaction mixture is stirred at room temperature overnight and then 938 mg (5.78 mmol) of N,N-carbonyldiimidazole are added in portions. The mixture is stirred at room temperature for 1.5 h and at reflux temperature for 30 minutes. After it has cooled to room temperature the reaction mixture is washed with 5% strength hydrochloric acid and water, the organic phase is dried over magnesium sulfate, filtered and concentrated and the product is dried under a high vacuum. This gives 605 mg of the product (88% of theory).

reactant | (3S)-3-methyldihydro-2,5-furandione | 5.26 mmol, 600 mg | C[C@@H]1C(OC(C1)=O)=O | C5H6O3
reactant | triethylamine | 5.52 mmol, 0.77 ml, 559 mg | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 5.52 mmol, 373 mg | Cl.CN
reactant | N,N-carbonyldiimidazole | 5.78 mmol, 938 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (3S)-1,3-Dimethyl-2,5-pyrrolidinedione | CN1C([C@H](CC1=O)C)=O | C6H9NO2
